US03966820
0.45 G. of methyl(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)acetate is dissolved in 10 ml. of ether/tetrahydrofuran (1:1) and excess lithium aluminum hydride is added. After 3 hours, excess hydride is destroyed by addition of water and the mixture is extracted with ether. The extract is dried and to it is added 2.0 g. of manganese dioxide. The mixture is left for 4 days and then filtered through celite and evaporated. The residue is recrystallized from hexane to afford 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)ethan1-ol (m.p. 73°-75°C).

reactant | methyl(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)acetate | COC(CC1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1)=O | C18H14O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether tetrahydrofuran | CCOCC.O1CCCC1
product | 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)ethan1-ol | O=C1C2=C(C=CC3=C1C=CC(=C3)CCO)C=CC=C2 | C17H14O2
